US06503949B1
5-Amino-2-trifluoromethoxybenzoic acid methyl ester (3.0 g, 12.8 mmol) was dissolved in THF (20 mL) in a three-necked flask equipped with a thermometer and an addition funnel under nitrogen. Under stirring and ice-cooling lithium aluminum hydride (1M in THF, 15 mL) was added dropwise within 10 minutes. Stirring was continued at room temperature for 1 hr, and the reaction was concentrated in vacuo. The residue was suspended in dichloromethane (150 mL) and water (50 mL), then filtered through celite, washed with dichloromethane and water. The filtrate was separated, and the water phase was extracted once more with dichloromethane (30 mL). The combined organic phases were washed with water (2×20 mL), dried (MgSO4) and concentrated in vacuo to give 2.47 g of (5-amino-2-trifluoromethoxyphenyl)methanol.

reactant | 5-Amino-2-trifluoromethoxybenzoic acid methyl ester | 12.8 mmol, 3.0 g | COC(C1=C(C=CC(=C1)N)OC(F)(F)F)=O | C9H8F3NO3
reactant | lithium aluminum hydride | 1M, 15 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (5-amino-2-trifluoromethoxyphenyl)methanol | 2.47 g | NC=1C=CC(=C(C1)CO)OC(F)(F)F | C8H8F3NO2
